US09145429B2
To a solution of 2-(4-bromo-3-fluoro-5-((tetrahydro-2H-pyran-2-yloxy)methyl)phenoxy)tetrahydro-2H-pyran (9.13 g, 23.5 mmol) was added n-butyllithium (1.6 M in hexanes, 16 mL, 26 mmol) dropwise at −78° C. After stirring 5 min, triisopropyl borate (8.7 mL, 38 mmol) was added, and the mixture was allowed to warm to room temperature and stirred for 2 h. 6 M HCl (10 mL) was added, and the mixture was stirred for 2 h. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was removed in vacuo, and the residue was purified by silica gel chromatography (1:1 hexane/ethyl acetate) to give 7-fluorobenzo[c][1,2]oxaborole-1,5(3H)-diol (3.54 g, 90%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm) 4.86 (s, 2H), 6.40 (dd, J=9.9, 1.5 Hz, 1H), 6.59 (s, 1H), 8.92 (br s, 1H), 10.2 (s, 1H).

reactant | 2-(4-bromo-3-fluoro-5-((tetrahydro-2H-pyran-2-yloxy)methyl)phenoxy)tetrahydro-2H-pyran | 23.5 mmol, 9.13 g | BrC1=C(C=C(OC2OCCCC2)C=C1COC1OCCCC1)F | C17H22BrFO4
reactant | n-butyllithium | 26 mmol, 1.6 M, 16 mL | C(CCC)[Li]
reactant | triisopropyl borate | 38 mmol, 8.7 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 6 M, 10 mL | Cl | ClH
solvent | Water | O | H2O
product | 7-fluorobenzo[c][1,2]oxaborole-1,5(3H)-diol | 3.54 g, 90% | FC1=CC(=CC2=C1B(OC2)O)O | C7H6BFO3
